US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-methyl-phenol to give (1H-pyrazol-3-yl)-(1-m-tolyloxy-isoquinolin-3-yl)-amine. LC-MS m/e 317(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3-methyl-phenol | CC=1C=C(C=CC1)O | C7H8O
product | (1H-pyrazol-3-yl)-(1-m-tolyloxy-isoquinolin-3-yl)-amine | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)OC=1C=C(C=CC1)C | C19H16N4O
